US07470699B2
Preparation of 4-[6-(4-Dimethylcarbamoylmethyl-2-fluoro-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound C150)
A mixture of 4-[6-(4-carboxymethyl-2-fluoro-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (150 mg, 0.335 mmol) and HATU (178 mg, 0.469 mmol) in DMF (4 mL) was stirred for 30 minutes at room temperature. Then, dimethylamine (235 μL, 0.47 mmol) was added and the reaction was stirred for 24 hours at room temperature. The reaction was quenched with water and the product extracted in ethyl acetate. The organic layer was concentrated in vacuo and purified by HPLC to provide Compound C150 as a white solid (40 mg, 25%). 1H NMR (DMSO-d6, 400 MHz) δ 1.21 (d, 6H), 1.62-1.72 (m, 2H), 1.92-2.01 (m, 2H), 2.16 (s, 3H), 2.87 (s, 3H), 3.06 (s, 3H), 3.32-3.41 (m, 2H), 3.61-3.69 (m, 2H), 3.75 (s, 2H), 4.08 (h, 1H), 5.33 (h, 1H), 7.08 (d, 1H), 7.23-7.33 (m, 2H), 8.27 (s, 1H). Exact mass calculated for C24H31FN4O5 474.53, found 475.5 (MH+).

reactant | 4-[6-(4-carboxymethyl-2-fluoro-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 0.335 mmol, 150 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)OC1=C(C=C(C=C1)CC(=O)O)F | C22H26FN3O6
reactant | HATU | 0.469 mmol, 178 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | dimethylamine | 0.47 mmol, 235 μL | CNC | C2H7N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-[6-(4-Dimethylcarbamoylmethyl-2-fluoro-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 40 mg, 25% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)OC1=C(C=C(C=C1)CC(N(C)C)=O)F | C24H31FN4O5
